US07507775B2
1-tert-butyl-1,1,3,3-tetramethyldisiloxane (Structure 5).
A 1 L round bottom flask was charged with water (95 g) and diisopropyl ether (50 g) and stirred. A solution of tert-butyldimethylsilyl chloride (39.5 g) in isopropyl ether (50 g) was charged to an addition funnel, and added dropwise to the water/IPE mixture at a rate to maintain the reaction temperature between 30-35° C. After complete addition, the reaction temperature was brought to 40° C. and maintained for 1 h. A solution of dimethylchlorosilane (24.8 g) in isopropyl ether (50 g) was then charged to the addition funnel, and this solution was added dropwise at 40-45° C. After complete addition, the reaction mixture was heated to reflux for 1 h and allowed to cool. After aqueous workup (washing with water and aqueous NaHCO3, and drying organic fractions over MgSO4), the product was isolated by fractional distillation under vacuum to yield 39.2 g M(R)M′ product/isopropyl ether solution (70%/20% by GC analysis). This product was found to have an Si—H content of 79 cc H2/g by gasiometric titration.

reactant | water | 95 g | O | H2O
reactant | tert-butyldimethylsilyl chloride | 39.5 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | dimethylchlorosilane | 24.8 g | C[SiH](Cl)C | C2H7ClSi
solvent | isopropyl ether | 50 g | C(C)(C)OC(C)C | C6H14O
solvent | isopropyl ether | 50 g | C(C)(C)OC(C)C | C6H14O
solvent | diisopropyl ether | 50 g | C(C)(C)OC(C)C | C6H14O
product | 1-tert-butyl-1,1,3,3-tetramethyldisiloxane | C(C)(C)(C)[Si](O[SiH](C)C)(C)C | C8H22OSi2
